US04835175
Under the conditions of Example 14(E), 380 mg of 4-(2-n-butoxycarbonyl-1-methylethylaminoacetyl)-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride in 10 ml of methanol and 5 ml of tetrahydrofuran is hydrogenated and worked up, yielding 185 mg of 4-[1-hydroxy-2-(2-n-butoxycarbonyl-1-methylethylamino)ethyl]-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride, decomposition point 75°-84° C.

reactant | 4-(2-n-butoxycarbonyl-1-methylethylaminoacetyl)-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride | 380 mg | Cl.C(CCC)OC(=O)C=1NC2=C(C=CC(=C2C1)C(C(C(=O)OCCCC)NC(C)C)=O)O
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[1-hydroxy-2-(2-n-butoxycarbonyl-1-methylethylamino)ethyl]-7-hydroxyindole-2-carboxylic acid n-butyl ester hydrochloride | 185 mg | Cl.C(CCC)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(CC(=O)OCCCC)C)O)O | InChI=1S/C23H34N2O6.ClH/c1-4-6-10-30-21(28)12-15(3)24-14-20(27)16-8-9-19(26)22-17(16)13-18(25-22)23(29)31-11-7-5-2;/h8-9,13,15,20,24-27H,4-7,10-12,14H2,1-3H3;1H
